US04959366
(A) 2-[N-Methyl-N-(4-nitrophenethyl)amino]ethanol
A mixture of 4-nitrophenethyl bromide (11.5 g) and N-methylethanolamine (8.25 g) in xylene (100 ml) was stirred at reflux for 16 hours. After evaporation, the residue was partitioned between 5% aqueous sodium bicarbonate and methylene chloride. The organic liquors were washed with saturated aqueous brine, dried (MgSO4), filtered and evaporated to give an orange oil (10.1 g). Chromatography on silica ("Kieselgel 60"-Trade Mark) eluting with ethyl acetate followed by collection and evaporation of suitable fractions gave the title compound as a yellow oil, (7.5 g).

reactant | 4-nitrophenethyl bromide | 11.5 g | [N+](=O)([O-])C1=CC=C(CCBr)C=C1 | C8H8BrNO2
reactant | N-methylethanolamine | 8.25 g | CNCCO | C3H9NO
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[N-Methyl-N-(4-nitrophenethyl)amino]ethanol | 10.1 g | CN(CCC1=CC=C(C=C1)[N+](=O)[O-])CCO | C11H16N2O3
